US07981900B2
N-(3-{1-[(5-Chloropyrazin-2-yl)amino]butyl}phenyl)acetamide
To a stirred solution of N-[1-(3-aminophenyl)butyl]-6-chloropyrazin-2-amine (0.10 g, 0.36 mmol) and triethylamine (100 μl, 0.72 mmol) in dichloromethane (3 mL) cooled to 0° C. was added acetyl chloride (31 μL, 0.43 mmol). The resulting mixture was stirred at room temperature for 18 h. then diluted with dichloromethane (10 mL) and washed with H2O (10 mL) and brine (10 mL). The organic phase was collected, dried and concentrated and the residue purified by flash chromatography eluting with ethyl acetate-hexane (1:1) to give pure product (94 mg, 82%).

reactant | N-[1-(3-aminophenyl)butyl]-6-chloropyrazin-2-amine | 0.36 mmol, 0.10 g | NC=1C=C(C=CC1)C(CCC)NC1=NC(=CN=C1)Cl | C14H17ClN4
reactant | triethylamine | 0.72 mmol, 100 μl | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.43 mmol, 31 μL | C(C)(=O)Cl | C2H3ClO
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(3-{1-[(5-Chloropyrazin-2-yl)amino]butyl}phenyl)acetamide | 94 mg, 82% | ClC=1N=CC(=NC1)NC(CCC)C=1C=C(C=CC1)NC(C)=O | C16H19ClN4O
